US06271261B1
Preparation of N-Phenylethyl-N′-(2-hydroxy-4-nitrophenyl)urea
To a solution of phenethyl isocyanate (382 mg, 2.6 mmol) in toluene, 2-amino-5-nitrophenol (400 mg, 2.6 mmol) was added. The reaction mixture was stirred at 80° C. for 24 hours, then cooled to room temperature. The product was purified by precipitation from toluene and filtering (650 mg, 83%). m.p: 188.6-189.4° C.; EI-MS m/z 302 (M+H)+.

reactant | phenethyl isocyanate | 2.6 mmol, 382 mg | C(CC1=CC=CC=C1)N=C=O | C9H9NO
reactant | 2-amino-5-nitrophenol | 2.6 mmol, 400 mg | NC1=C(C=C(C=C1)[N+](=O)[O-])O | C6H6N2O3
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | N-Phenylethyl-N′-(2-hydroxy-4-nitrophenyl)urea | C1(=CC=CC=C1)CCNC(=O)NC1=C(C=C(C=C1)[N+](=O)[O-])O | C15H15N3O4
